US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (12 mg, 0.03 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 10 mg of a white solid. MS (ESI) 301 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.03 mmol, 12 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)COC)C(F)(F)F)=O)CC1 | C19H23F3N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.COCC1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C14H15F3N2O2.ClH/c1-21-7-8-4-9-11-6-18-2-3-19(11)13(20)12(9)10(5-8)14(15,16)17;/h4-5,11,18H,2-3,6-7H2,1H3;1H/t11-;/m0./s1
